US09388147B2
Prepared using General Procedure 3. To a solution of (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-yl(2-(dimethylamino)-2-oxoethyl)carbamate (3.8 g, 11.07 mmol) in EtOH (20 mL) was added hydroxylamine hydrochloride (1.92 g, 27.67 mmol) and triethylamine (2.8 g, 27.67 mmol). The reaction solution was heated to 85° C. for 2 h. The solvent was removed under vacuum and the residue partitioned between DCM (3×10 mL) and water (10 mL). The combined organic layers were dried over MgSO4 and concentrated under vacuum to produce 4.10 g (87.7%) of (S)-tert-butyl 2-(dimethylamino)-2-oxoethyl(4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-yl)carbamate, which was 65% pure and used directly in the next experiment. LCMS-ESI (m/z) calculated for C19H28N4O4; 376.45. found 377.2 [M+H]+, tR=1.85 min.

reactant | (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-yl(2-(dimethylamino)-2-oxoethyl)carbamate | 11.07 mmol, 3.8 g | C(#N)C1=C2CC[C@@H](C2=CC=C1)N(C(OC(C)(C)C)=O)CC(=O)N(C)C | C19H25N3O3
reactant | hydroxylamine hydrochloride | 27.67 mmol, 1.92 g | Cl.NO
reactant | triethylamine | 27.67 mmol, 2.8 g | C(C)N(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | (S)-tert-butyl 2-(dimethylamino)-2-oxoethyl(4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-yl)carbamate | 4.10 g, 87.7% | CN(C(CN(C(OC(C)(C)C)=O)[C@H]1CCC2=C(C=CC=C12)C(NO)=N)=O)C | C19H28N4O4
